US04500636
Synthesis of 2-(4-Chlorobenzoyl)benzoic acid:
To a solution prepared by adding 30 g (0.2 mol.) of phthalic anhydride to 122 ml of dried chlorobenzene, was added 64 g (0.48 mol.) of well-ground anhydrous aluminium chloride with stirring. The reaction temperature rose gradually, and the reaction system reached a refluxing condition. The refluxing was continued for 1 hour as the reaction temperature was controlled so that the reaction system refluxed moderately using the ice bath. Then, the reaction product solidified spontaneously. 300 ml of water was added dropwise to the reaction system while cooling by means of an ice bath. The thus produced white precipitate was thoroughly washed with water and cooled ethanol to obtain 45 g of crude crystals. These crude crystals were recrystallized from benzene to obtain the intended compound. Yield 38 g, Melting Point 146° to 148° C.

reactant | phthalic anhydride | 0.2 mol, 30 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | chlorobenzene | 122 ml | ClC1=CC=CC=C1 | C6H5Cl
reactant | aluminium chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | water | 300 ml | O | H2O
product | 2-(4-Chlorobenzoyl)benzoic acid | 45 g | ClC1=CC=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1 | C14H9ClO3
